US05736568
A solution of 2-(N,N-dimethylaminomethyl)phenol (10.0 g, which contains 30% phenol by weight) in DMF (10 ml) was added dropwise with stirring to a suspension of sodium hydride (3.14 g, 60% dispersion in mineral oil) in DMF (75 ml) at ambient temperature under nitrogen. After the addition the mixture was stirred at ambient temperature for 30 minutes. A solution of 2-chloro-N,N-diethylethylamine in toluene (70 ml) [prepared by dissolving the hydrochloride (14.8 g) in water (20 ml), adding aqueous sodium hydroxide (5M) to basify the mixture and then extracting the mixture with toluene 3×20 ml, drying, filtering and then making up to 70 ml as required] was added dropwise over a period of 2 minutes and the resulting mixture heated on a steam bath for 18 hours under nitrogen. The mixture was poured into ice/water (500 ml) and sodium hydroxide solution was added until the mixture was basic (pH=14). The mixture was extracted with ether to give a residue which was distilled under vacuum. The highest boiling fraction (b.p. 105°-110° C. at 0.6 mbar) was dissolved in ether and acidified with ethereal hydrogen chloride. The solvent was removed under reduced pressure. The residue was dissolved in propan-2-ol and ether added to induce precipitation. The solid was collected by filtration and recrystallised from propan-2-ol to give 2-(2-diethylaminoethoxy)-N,N-dimethylbenzylamine dihydrochloride, m.p. 213°-214° C.

reactant | 2-(N,N-dimethylaminomethyl)phenol | 10.0 g | CN(C)CC1=C(C=CC=C1)O | C9H13NO
reactant | sodium hydride | 3.14 g | [H-].[Na+]
reactant | 2-chloro-N,N-diethylethylamine | ClCCN(CC)CC | C6H14ClN
reactant | hydrochloride | 14.8 g | Cl | ClH
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 2-(2-diethylaminoethoxy)-N,N-dimethylbenzylamine dihydrochloride | Cl.Cl.C(C)N(CCOC1=C(CN(C)C)C=CC=C1)CC | InChI=1S/C15H26N2O.2ClH/c1-5-17(6-2)11-12-18-15-10-8-7-9-14(15)13-16(3)4;;/h7-10H,5-6,11-13H2,1-4H3;2*1H
